US05157169
reacting 2,4-difluoroaniline with Br2 so as to form 2-bromo-4,6-difluoroaniline.HBr;

reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | Br2 | BrBr | Br2
product | 2-bromo-4,6-difluoroaniline | BrC1=C(N)C(=CC(=C1)F)F | C6H4BrF2N
